US05616579
75(a) N-[4-(4-Dimethylaminomethyl-2-pyridyloxy)-cis-2-butenyl]-2-(2-hydroxyethylthio)acetamide
Following a procedure similar to that described in Example 68, but using 4-(4-dimethylaminomethyl-2-pyridyloxy)-cis-2-butenylamine and 1,4-oxathian-2-one as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained in a 53% yield.

reactant | 4-(4-dimethylaminomethyl-2-pyridyloxy)-cis-2-butenylamine | CN(C)CC1=CC(=NC=C1)OC\C=C/CN | C12H19N3O
reactant | 1,4-oxathian-2-one | O1C(CSCC1)=O | C4H6O2S
product | N-[4-(4-Dimethylaminomethyl-2-pyridyloxy)-cis-2-butenyl]-2-(2-hydroxyethylthio)acetamide | 53% yield | CN(C)CC1=CC(=NC=C1)OC\C=C/CNC(CSCCO)=O | C16H25N3O3S
